US06756378B2
A mixture of methyl 4-[1-(tert-butoxycarbonyl)-4,4-difluoro-2-pyrrolidinylmethoxy]benzoate (830 mg, 2.23 mmol) and TFA (5 ml) in CH2Cl2 (5 ml) was stirred for 3 h and concntrated in vacuo. The residue was made basic with sat. NaHCO3 and extracted with CHCl3 (2×200 ml). The combined extracts were dried over K2CO3 and concntrated in vacuo to give methyl 4-(4,4-difluoro-2-pyrrolidinylmethoxy)benzoate (550 mg, 91%) as a pale yellow solid. 1H-NMR (CDCl3) δ2.19 (m, 1 H), 2.43 (m, 1 H), 3.19-3.41 (m, 2 H), 3.77 (m, 1 H), 3.89 (s, 3 H), 4.00-4.09 (m, 2 H), 6.92 (d, J=9.0 Hz, 2 H), 7.99 (d, J=9.0 Hz, 2 H); MS (FAB) m/z 272 (M++1); Anal. Calcd. for C13H15F2NO3: C, 57.56; H, 5.57; N, 5.16. Found: C, 57.65; H, 5.67; N, 5.16.

reactant | methyl 4-[1-(tert-butoxycarbonyl)-4,4-difluoro-2-pyrrolidinylmethoxy]benzoate | 2.23 mmol, 830 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)(F)F)COC1=CC=C(C(=O)OC)C=C1 | C18H23F2NO5
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-(4,4-difluoro-2-pyrrolidinylmethoxy)benzoate | 550 mg, 91% | FC1(CC(NC1)COC1=CC=C(C(=O)OC)C=C1)F | C13H15F2NO3
